US06333320B1
333 mg of N-[4-(4-t-butoxycarbonylhexahydro-1H-1,4-diazepin-1-yl)phenyl]-N-[(7-cyano-2-naphthyl)-methyl]methanesulfonamide obtained in Reference Example 24 was dissolved in 10 ml of ethanol, and the resulting solution was cooled to −20° C. with stirring, into which was introduced hydrogen chloride up to saturation. The reaction mixture was stirred at 5° C. for 15 hours, and then evaporated. The resulting residue was dissolved in a mixture of 10 ml of ethanol and 10 ml of methanol, to which was added 480 mg of ammonium acetate, and stirred at room temperature for 24 hours. The reaction mixture was evaporated, and the resulting residue was purified through ODS column chromatography. From the fraction having been eluted with an eluent solvent of methanol/water (5/95), obtained was 249 mg of a roughly-purified product of N-[(7-amidino-2-naphthyl)methyl]-N-[4-(hexahydro-1H-1,4-diazepin-1-yl)phenyl]sulfonamide. 224 mg of this product was dissolved in 10 ml of ethanol, to which were added 650 mg of ethyl acetimidate hydrochloride and 683 mg of triethylamine, and stirred at room temperature for 20 hours. The reaction mixture was evaporated, and the resulting residue was purified through ODS (YMC-GEL ODS-A 120-230/70) column chromatography using an eluent solvent of methanol/water (5/95). A small amount of 1 N hydrochloric acid was added to the thus-purified product, which was then freeze-dried to obtain 169 mg of N-[4-(4-acet-imidoylhexahydro-1H-1,4-diazepin-1-yl)phenyl]-N-[(7-amidino-2-naphthyl)methyl]methanesulfonamide dihydro-chloride.

reactant | hydrogen chloride | Cl | ClH
reactant | N-[(7-amidino-2-naphthyl)methyl]-N-[4-(hexahydro-1H-1,4-diazepin-1-yl)phenyl]sulfonamide | C(N)(=N)C1=CC=C2C=CC(=CC2=C1)CN(S(=O)=O)C1=CC=C(C=C1)N1CCNCCC1 | C23H27N5O2S
reactant | ethyl acetimidate hydrochloride | 650 mg | Cl.C(C)(OCC)=N
reactant | triethylamine | 683 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[4-(4-acet-imidoylhexahydro-1H-1,4-diazepin-1-yl)phenyl]-N-[(7-amidino-2-naphthyl)methyl]methanesulfonamide dihydro-chloride | 169 mg | Cl.Cl.C(C)(=N)N1CCN(CCC1)C1=CC=C(C=C1)N(S(=O)(=O)C)CC1=CC2=CC(=CC=C2C=C1)C(N)=N | InChI=1S/C26H32N6O2S.2ClH/c1-19(27)30-12-3-13-31(15-14-30)24-8-10-25(11-9-24)32(35(2,33)34)18-20-4-5-21-6-7-22(26(28)29)17-23(21)16-20;;/h4-11,16-17,27H,3,12-15,18H2,1-2H3,(H3,28,29);2*1H
